Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ year old male with an SBO
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ on apixiban, bilateral inguinal hernia repair ___ R,
___ L), partial pancreatectomy of uncinate process who presents
to the ED with SBO. Patient recent underwent repair of left
inguinal hernia repair ___ with mesh plug. He has been seen by
Dr. ___ in the office initially concerned for L hernia
recurrence, but later believed to be due to exposed mesh. 
Patient
has been doing well. However 10 days ago, patient started to
experience abdominal discomfort and in the past 24 hours,
abdominal distention. He denies nausea/vomiting/fever/chills.
Patient is passing flatus and having BMs. 

 
Past Medical History:
HTN, MR/AI, Ao root dilation, hypercholesterolemia, elevated PSA
 
Social History:
___
Family History:
father with CAD, mother with CHF, brother with macular
degeneration
 
Physical Exam:
VS: ___ 0358 Temp: 97.4 PO BP: 75/44 L Lying HR: 62 RR: 18
O2 sat: 94% O2 delivery: Ra  
GEN: A&Ox3, NAD, resting comfortably  
HEENT: NCAT, EOMI, sclera anicteric  
CV: irregularly irregular   
PULM: no respiratory distress  
ABD: soft, NT, ND, no rebound or guarding  
EXT: warm, well-perfused, no edema  
PSYCH: normal insight, memory, and mood  

 
Pertinent Results:
___ 05:26AM BLOOD WBC-13.9* RBC-4.01* Hgb-12.6* Hct-38.7* 
MCV-97 MCH-31.4 MCHC-32.6 RDW-13.9 RDWSD-49.6* Plt Ct-79*
___ 05:26AM BLOOD Glucose-106* UreaN-14 Creat-1.3* Na-136 
K-4.0 Cl-97 HCO3-28 AnGap-11
___ 05:26AM BLOOD Calcium-8.8 Phos-2.9 Mg-1.5*
 
Brief Hospital Course:
___ on apixiban, bilateral inguinal hernia repair ___ R,
___ L), partial pancreatectomy of uncinate process who presents
to the ED with SBO. Patient recent underwent repair of left
inguinal hernia repair ___ with mesh plug. He has been seen by
Dr. ___ in the office initially concerned for L hernia
recurrence, but later believed to be due to exposed mesh. 
Patient
has been doing well. However 10 days ago, patient started to
experience abdominal discomfort and in the past 24 hours,
abdominal distention. He denies nausea/vomiting/fever/chills.
Patient is passing flatus and having BMs. 

He was admitted to the surgical service with an NGT and IVF for 
conservative management. Upon arrival to the floor the patient 
had multiple loose bowel movements and he continued to pass 
flatus. His NGT was removed and diet advanced as tolerated to a 
regular diet. His home medications were resumed. He was deemed 
appropriate for discharge home. 

Prior to discharge the patient was tolerating a regular diet 
without nausea or emesis, he was resumed on all of his home 
medications. He was ambulating at his baseline and was pain 
free. He should follow up with his PCP following his 
hospitalization and continue all home medications. the patient 
expressed good understanding of all discharge instructions and 
all questions were answered. 
 
Medications on Admission:
1.  Apixaban 5 mg PO BID  
2.  Diazepam 5 mg PO Q6H:PRN bladder and pelvic floor spasm  
3.  Finasteride 5 mg PO DAILY  
4.  Lisinopril 20 mg PO BID  
5.  Pravastatin 10 mg PO QPM  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO BID  

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Diazepam 5 mg PO Q6H:PRN bladder and pelvic floor spasm  
3.  Finasteride 5 mg PO DAILY  
4.  Lisinopril 20 mg PO BID  
5.  Pravastatin 10 mg PO QPM  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following: *You experience 
new chest pain, pressure, squeezing or tightness. *New or 
worsening cough, shortness of breath, or wheeze. *If you are 
vomiting and cannot keep down fluids or your medications. *You 
are getting dehydrated due to continued vomiting, diarrhea, or 
other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing. *You see 
blood or dark/black material when you vomit or have a bowel 
movement. *You experience burning when you urinate, have blood 
in your urine, or experience a discharge. *Your pain in not 
improving within ___ hours or is not gone within 24 hours. Call 
or return immediately if your pain is getting worse or changes 
location or moving to your chest or back. *You have shaking 
chills, or fever greater than 101.5 degrees Fahrenheit or 38 
degrees Celsius. *Any change in your symptoms, or any new 
symptoms that concern you. Please resume all regular home 
medications, unless specifically advised not to take a 
particular medication. Also, please take any new medications as 
prescribed. Please get plenty of rest, continue to ambulate 
several times per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___